US05942517
A mixture of 5-Formylbenzofurazan (0.6 g, 4.1 mmol), methyl acetoacetate (0.52 g, 4.5 mmol), piperidine (0.019 g, 0.225 mmol), and acetic acid (0.014 g, 0.225 mmol) in benzene (30 mL) was stirred and refluxed with a Dean-Stark trap for 8 h. Benzene was evaporated, the residue was dissolved in ethyl acetate (80 mL) and washed with brine (50 mL), saturated potassium bisulfate solution (50 mL), and saturated sodium bicarbonate solution in sequence. The ethyl acetate solution was dried (magnesium sulfate), solvent removed under reduced pressure and the residue was purified by column chromatography (SiO2, EtOAc/hexane, 10%-15%). The product, methyl 2{(benzofuran-5-yl)methylene}-3-oxobutyrate, was obtained as an oil (0.98 g, 98.3%) and was used in the next step without any further characterization.

reactant | 5-Formylbenzofurazan | 4.1 mmol, 0.6 g | C(=O)C=1C=CC=2C(=NON2)C1 | C7H4N2O2
reactant | methyl acetoacetate | 4.5 mmol, 0.52 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | piperidine | 0.225 mmol, 0.019 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.225 mmol, 0.014 g | C(C)(=O)O | C2H4O2
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
product | methyl 2{(benzofuran-5-yl)methylene}-3-oxobutyrate | O1C=CC2=C1C=CC(=C2)C=C(C(=O)OC)C(C)=O | C14H12O4
